US08022062B2
Use a method similar to the General Procedure 5-1 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (200 mg, 0.5 mmol) with (R)-1-aminoindan (188 mg, 1.4 mmol) in toluene (5 mL). Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1 to 1:1) followed by SCX chromatography [pre-wash column with methanol followed by DCM, load material dissolved in DCM, then elute with DCM/2M ammonia in methanol (1:1) and concentrate in vacuo] to give 7-chloro-6-(indan-1-ylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (129 mg, 67%). GC-MS m/z: 408 (M+).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.5 mmol, 200 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | (R)-1-aminoindan | 1.4 mmol, 188 mg | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-6-(indan-1-ylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 129 mg, 67% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NC1CCC2=CC=CC=C12 | C21H20ClF3N2O
